US06987114B1
1-(Cyclohexyl)methyl-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and (cyclohexyl)methyl para-toluenesulfonate were reacted by the same way with the example 1 to obtain the titled compound (201 mg, yield: 54.3%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | (cyclohexyl)methyl para-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCCCC1)C | C14H20O3S
product | 1-(Cyclohexyl)methyl-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 201 mg, yield: 54.3% | C1(CCCCC1)CN1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C22H30N2O3
